US07521462B2
To a heated (130° C.) solution of polyphosphoric acid (59 g) in chlorobenzene (500 ml) is added a solution of 1-[(2,2-dimethoxyethyl)thio]-2-methyl-benzene (23.4 g, 110 mmol) in chlorobenzene (125 ml) slowly over several hours and when addition is complete the reaction mixture is heated for a further 8 hours. The reaction mixture is cooled to ambient temperature and stirred for an additional 24 hours. Water is added, the layers are separated, and the aqueous layer is extracted with dichloromethane. The combined organic extracts are dried over anhydrous MgSO4, filtered, and concentrated. The crude material thus obtained is purified via flash chromatography on silica gel eluting with 100% pentane then 100% hexanes to afford 7-methyl-benzo[b]thiophene (12.65 g, 69%). 1H NMR (CDCl3): δ=7.71 (1H, d), 7.45 (1H, d), 7.39 (1H, d), 7.33 (1H, dd), 7.17 (1H, d), 2.61 (3H, s).

reactant | 1-[(2,2-dimethoxyethyl)thio]-2-methyl-benzene | 110 mmol, 23.4 g | COC(CSC1=C(C=CC=C1)C)OC | C11H16O2S
reactant | Water | O | H2O
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 125 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 7-methyl-benzo[b]thiophene | 12.65 g, 69% | CC1=CC=CC2=C1SC=C2 | C9H8S
